US08748452B2
Indolizine-1-carbonitrile
To a solution of pyridine (4.0 g) in ethyl acetate (10 mL) was added chloroacetic acid (4.7 g) at room temperature, and the mixture was heated under reflux overnight. After the reaction mixture was cooled to room temperature, the precipitated solid was collected by filtration, and dried under reduced pressure to give 1-carboxymethyl pyridinium chloride (5.7 g). To a solution of the obtained compound (5.7 g) in toluene (300 mL) were added acrylonitrile (8.7 g), manganese dioxide (16.4 g) and triethylamine (4.0 g), and the mixture was stirred at 100° C. for 5 hours. The reaction mixture was filtered through a Celite pad, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (2.8 g).

reactant | acrylonitrile | 8.7 g | C(C=C)#N | C3H3N
reactant | triethylamine | 4.0 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 16.4 g | [O-2].[O-2].[Mn+4]
product | Indolizine-1-carbonitrile | 2.8 g | C=1(C=CN2C=CC=CC12)C#N | C9H6N2
